US07067532B2
A solution of 4-(4-(2-methoxyphenoxy)-anilino)-3-cyano-6-methoxy-7-hydroxyquinoline (3.6 g, 8.0 mmole), prepared as described in Example 18 step 2, in DMSO (40 ml) was reacted with (2S)-(+)-glycidyl tosylate (2.3 g, 10 mmole) in the presence of potassium carbonate (2.8 g, 20 mmole) at room temperature for 18 hours. 4-(4-(2-methoxyphenoxy)-anilino)-3-cyano-6-methoxy-7-glycidyloxy quinoline was obtained.

reactant | 4-(4-(2-methoxyphenoxy)-anilino)-3-cyano-6-methoxy-7-hydroxyquinoline | 8.0 mmole, 3.6 g | COC1=C(OC2=CC=C(NC3=C(C=NC4=CC(=C(C=C34)OC)O)C#N)C=C2)C=CC=C1 | C24H19N3O4
reactant | (2S)-(+)-glycidyl tosylate | 10 mmole, 2.3 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]2CO2 | C10H12O4S
reactant | potassium carbonate | 20 mmole, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
product | 4-(4-(2-methoxyphenoxy)-anilino)-3-cyano-6-methoxy-7-glycidyloxy quinoline | COC1=C(OC2=CC=C(NC3=C(C=NC4=CC(=C(C=C34)OC)OCC3CO3)C#N)C=C2)C=CC=C1 | C27H23N3O5
